US05672588
9-(2,3,5-Tri- O-acetyl-β-D-ribofuranosyl)-6-chloro-2-fluoro-9H-purine (1.03 g, 2.38 mmol) PCT Publication No. WO 938206, (R)-1-phenoxy-2-propylamine (0.36 g, 2.38 mmol) and triethylamine (0.29 g, 0.28 mmol) in dioxan (20 ml) were stirred at room temperature for 18 h. The reaction mixture was filtered and evaporated to a residue which was purified by flash chromatography. The resultant 2',3',5'-tri- O-acetyl-2-fluoro- N-[(R)-1-phenoxy-2-propyl]adenosine was deprotected using methanolic ammonia to provide the title 2-fluoro- N-[(R)-1-phenoxy-2-propyl]adenosine (0.28 g, 23%)(after column chromatography), mp 148°-150° C.; 1H NMR (DMSO-d6)δ 1.33 (3H, d, -3.59 (1H, m, H-5'a), 3.63-3.71 (1H, m, H-5'b), 3.92-3.99 (2H, m, H-4' and --C--H), 4.10-4.18 (2H, m, H-3' and --C--H), 4.51 (1H, q, H-2'), 4.61 (1H, m, --CH3C H--), 5.06 (1H, t, 5'-OH), 5.22, 5.48 (2H, 2d, 2' and 3'-OH), 5.82 (1H, d, H-1'), 6.89-6.97 (3H, m, Ar--H), 7.25-7.30 (2H, t, Ar--H), 8.39 (1H, s, H-8), 8.49 (1H, d, N--H).

reactant | 9-(2,3,5-Tri- O-acetyl-β-D-ribofuranosyl)-6-chloro-2-fluoro-9H-purine | 2.38 mmol, 1.03 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)F | C16H16ClFN4O7
reactant | (R)-1-phenoxy-2-propylamine | 2.38 mmol, 0.36 g | O(C1=CC=CC=C1)C[C@@H](C)N | C9H13NO
reactant | triethylamine | 0.28 mmol, 0.29 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 2-fluoro- N-[(R)-1-phenoxy-2-propyl]adenosine | 0.28 g, 23% | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](COC1=CC=CC=C1)C | C19H22FN5O5
